US07435823B2
A mixture of 3,3-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)azetidin-2-one (1.67 g, 5.8 mmol, 1.0 equiv) and 10% Pd/C (300 mg) in MeOH (30 mL) was exposed to an atmosphere of H2. After consumption of the starting material, the mixture was filtered and concentrated to afford 1-(2-amino-4-(trifluoromethyl)phenyl-3,3-dimethylazetidin-2-one, which was advanced without further purification. MS (MH+) 259.1; Calculated 259.1 for C12H14F3N2O.

reactant | 3,3-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)azetidin-2-one | 5.8 mmol, 1.67 g, 1.0 equiv | CC1(C(N(C1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O)C | C12H11F3N2O3
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 2-amino-4-(trifluoromethyl)phenyl-3,3-dimethylazetidin-2-one | NC1=C(C=CC(=C1)C(F)(F)F)N1C(C(C1)(C)C)=O | C12H13F3N2O
